* Phase E: two NMOS5V0 in saturation, local mismatch only.
* Used by run_mc.py to characterize the spread of ID1/ID2 over N runs.
* Bias: Vds=3 V, Vgs=2 V (well into saturation since Vth_TT~0.88 V).
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=1

Vd1 d1 0 3
Vg1 g1 0 2
Vd2 d2 0 3
Vg2 g2 0 2

XM1 d1 g1 0 0 NMOS5V0 W=10u L=1u M=1
XM2 d2 g2 0 0 NMOS5V0 W=10u L=1u M=1

.control
op
echo MC_BEGIN
print i(Vd1) i(Vd2)
echo MC_END
quit
.endc
.end
